US08791132B2
A mixture of 9-methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6,7-triaza-cyclopenta[c]fluorene (100 mg, 0.44 mmol), 3-vinyl-pyridine (185 mg, 1.762 mmol), tetrabutylammonium bromide (425 mg, 1.32 mmol) and 50% NaOH solution (6 mL) was stirred at 100° C. for 18 h. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was diluted with water (20 mL) and extracted with EtOAc (2×50 mL). The combined organic layer was washed with brine solution (50 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to yield 9-methyl-6-(2-pyridin-3-yl-ethyl)-2,3,4,5,6,10c-hexahydro-1H-3a,6,7-triaza-cyclopenta[c]fluorene (58 mg). 1H NMR (CDCl3, freebase) δ (ppm): 8.41 (d, 1H), 8.27 (s, 1H), 8.07 (s, 1H), 7.58 (s, 1H), 7.2 (d, 1H), 7.1 (dd, 1H), 4.4 (m, 2 H), 3.99 (bs, 1H), 3.2 (dd, 1H), 3.17 (t, 2H), 2.84-2.7 (m, 3H), 2.5 (m, 1H), 2.41 (s, 3H), 2.2 (dd, 1H), 1.9 (m, 4H). Separation by chiral HPLC provided enantiomers 134a and 134b.

reactant | 9-methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6,7-triaza-cyclopenta[c]fluorene | 0.44 mmol, 100 mg | CC1=CC=2C=3C4N(CCC3NC2N=C1)CCC4 | C14H17N3
reactant | 3-vinyl-pyridine | 1.762 mmol, 185 mg | C(=C)C=1C=NC=CC1 | C7H7N
reactant | NaOH | 6 mL | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 1.32 mmol, 425 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 20 mL | O | H2O
product | 9-methyl-6-(2-pyridin-3-yl-ethyl)-2,3,4,5,6,10c-hexahydro-1H-3a,6,7-triaza-cyclopenta[c]fluorene | 58 mg | CC1=CC=2C=3C4N(CCC3N(C2N=C1)CCC=1C=NC=CC1)CCC4 | C21H24N4
